US08349880B2
Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide (1.5 g, 5.05 mmol, from preparation A) and 6-chloro-2-(3-fluorophenyl)hexanoic acid (1.237 g, 5.05 mmol, from preparation AO) were coupled and then reacted with hydrazine (0.636 mL, 20.25 mmol) using a procedure analogous to Step A of Example 13. The crude product, 5-(5-chloro-1-(3-fluorophenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (2.78 g, 100% yield), was used in the subsequent step without purification. LC-MS (M+H)+ 489.2.

reactant | Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide | I.ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC
reactant | 6-chloro-2-(3-fluorophenyl)hexanoic acid | 5.05 mmol, 1.237 g | ClCCCCC(C(=O)O)C1=CC(=CC=C1)F | C12H14ClFO2
reactant | hydrazine | 20.25 mmol, 0.636 mL | NN | H4N2
product | 5-(5-chloro-1-(3-fluorophenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 2.78 g, 100% yield | ClCCCCC(C1=CC(=CC=C1)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C23H23Cl2FN6O
